US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-cyclopropyl-N-(3-methyl-benzyl)-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid with cyclopropyl-(3-methyl-benzyl)-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC(=CC=C1)N(C)C)CC(=O)O | C20H26N2O4S
reactant | cyclopropyl-(3-methyl-benzyl)-amine | C1(CC1)NCC1=CC(=CC=C1)C | C11H15N
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-cyclopropyl-N-(3-methyl-benzyl)-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC1=CC(=CC=C1)C)C1CC1)C1=CC(=CC=C1)N(C)C | C31H39N3O3S
